US05846989
b) 2-[2-(2-Methylphenyl)ethoxy]acetamide
The subtitle compound (5.02 g) was prepared according to the procedure in example 5 part b using 2-[2-(2-methylphenyl)ethoxy]acetic acid (6.726 g), oxalyl chloride (6.22 ml), concentrated ammonium hydroxide (60 ml), and toluene (60 ml).

reactant | 2-[2-(2-methylphenyl)ethoxy]acetic acid | 6.726 g | CC1=C(C=CC=C1)CCOCC(=O)O | C11H14O3
reactant | oxalyl chloride | 6.22 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ammonium hydroxide | 60 ml | [OH-].[NH4+]
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[2-(2-Methylphenyl)ethoxy]acetamide | 5.02 g | CC1=C(C=CC=C1)CCOCC(=O)N | C11H15NO2
